US07629363B2
Step 3. Preparation of 3-Chloro-4-(2,4-difluorobenzyloxy)-6-methyl-1H-pyridin-2-one
3-Chloro-4-hydroxy-6-methyl-1H-pyridin-2-one (19.2 g, 0.12 mol) and DBU (19.9 mL, 0.13 mol) were dissolved in 70 mL of NMP. 2,4-Difluorobenzylbromide (17 mL, 0.13 mol) was added dropwise and the reaction was heated at 80° C. for 6 hours. The reaction was cooled to room temperature, the solid was filtered, and washed with NMP and hexanes. The solid was dried in a vacuum oven overnight to give a white solid (4.4 g, 13%): 1H NMR (300 MHz, DMSO-d6) δ 11.88 (br s, 1H), 7.63 (app q, J=9 Hz, 1H), 7.33 (app t, J=10 Hz, 1H), 7.16 (app t, J=9 Hz, 1H), 6.37 (s, 1H), 5.24 (s, 2H), 2.20 (s, 3H).

reactant | 3-Chloro-4-hydroxy-6-methyl-1H-pyridin-2-one | 0.12 mol, 19.2 g | ClC=1C(NC(=CC1O)C)=O | C6H6ClNO2
reactant | DBU | 0.13 mol, 19.9 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2,4-Difluorobenzylbromide | 0.13 mol, 17 mL | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
solvent | NMP | 70 mL | CN1CCCC1=O | C5H9NO
product | 3-Chloro-4-(2,4-difluorobenzyloxy)-6-methyl-1H-pyridin-2-one | 4.4 g, 13% | ClC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O | C13H10ClF2NO2
